US05328639
Into a 100 ml-round bottomed flask, 1.52 g (11 mW) of p-hydroxybenzoic acid in 20 ml of ethanol was added. Thereto, 1.45 g (26 mM) of potassium hydroxide in 5 ml of water was added, and 2.15 g (10 mM) of 2-fluorooctyl bromide in 2 ml of ethanol was added, followed by 25 hours of heat refluxing. Thereafter, a solution of 1.45 g (26 mM) of potassium hydroxide in 3 ml of water was added, followed by 5 hours of heat refluxing. After the completion of the reaction, the system was cooled with ice and neutralized with conc. HCl to precipitate a crystal. The crystal was filtered out, and washed with 50 ml of water to recover 1.00 g (yield: 37%) of p-2-fluorooctyloxybenzoic acid.

reactant | p-hydroxybenzoic acid | 1.52 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | potassium hydroxide | 26 mM, 1.45 g | [OH-].[K+]
reactant | 2-fluorooctyl bromide | 10 mM, 2.15 g | FC(CBr)CCCCCC | C8H16BrF
reactant | potassium hydroxide | 26 mM, 1.45 g | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | water | 3 ml | O | H2O
product | p-2-fluorooctyloxybenzoic acid | 1.00 g, yield: 37% | FC(COC1=CC=C(C(=O)O)C=C1)CCCCCC | C15H21FO3
